US06365591B1
a) 3-Phenyl-5-(2-phenylethyl)isoxazole-4-carboxylic acid (Compound 28A)
To a solution of 1.5 g of 5-methyl-3-phenyl-4-isoxazolecarboxylic acid in 50 mL of anhydrous tetrahydrofuran stirred at −78 ° C. under N2 atmosphere, 5.9 mL of a 2.5M solution of n-buthyl lithium in n-hexane was added and the solution was stirred at −78° C. for 2 hours. Afterwards, 0.89 mL of benzyl bromide was added at −78° C. and the solution stirred at room temperature for 2 hours. After overnight resting, the solution was poured into water (300 mL), acidified with hydrochloric acid and extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with water, dried (sodium sulphate) and the solvents were evaporated to dryness. The solid residue was washed with petroleum ether to give 1.82 g (84%) of the title compound as an amorphous solid.

reactant | 5-methyl-3-phenyl-4-isoxazolecarboxylic acid | 1.5 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C11H9NO3
reactant | lithium | [Li] | Li
reactant | benzyl bromide | 0.89 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 300 mL | O | H2O
product | 3-Phenyl-5-(2-phenylethyl)isoxazole-4-carboxylic acid | 1.82 g, 84% | C1(=CC=CC=C1)C1=NOC(=C1C(=O)O)CCC1=CC=CC=C1 | C18H15NO3
